* OVERALL BEST CANDIDATE: 00_Phase_1_36V_Telecom_to_12V_Buck_exact_3_1_g2_cand4_b2
* FITNESS SCORE: 0.5916
*
* Generated: 2026-05-31T20:49:08
* Constraint: Phase 1: 36V Telecom to 12V (Buck - exact 3:1)
*   vin_min = 34
*   vin_max = 40
*   vout_target = 12
*   efficiency_target = 0.82
*   power_in = 45
* Candidate: 8 of 8
* Grouped name: g2_cand4
*
* 34V to 12V Buck
Vin in 0 34
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 47u
C1 out 0 100u
Rload out 0 0.32
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
